US07317027B2
To 20 mL of 2-Methoxy-ethanol 243 mg of NaH (6.09 mmol, 60% suspension in oil) were added and the mixture was stirred for 15 min. in an argon atmosphere. 1 g (5.8 mmol) 2-Chloro-4-methyl-5-nitro-pyridine were added and the reaction mixture was stirred for 3 h at room temperature. After addition of 40 mL water and methyl-tertbutyl ether, the phases were separated and the organic phase was washed with saturated NaHCO3 solution and water and was dried over Na2SO4. After filtration, the solvent was removed in vacuo and the residue was purified by flash chromatography on silica gel using heptane/ethyl acetate=8/2. 2-(2-Methoxy-ethoxy)-4-methyl-5-nitro-pyridine was isolated as colourless oil. Yield: 0.73 g.

reactant | 2-Methoxy-ethanol | 20 mL, 243 mg | COCCO | C3H8O2
reactant | NaH | 6.09 mmol | [H-].[Na+]
reactant | 2-Chloro-4-methyl-5-nitro-pyridine | 5.8 mmol, 1 g | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | water | 40 mL | O | H2O
solvent | methyl-tertbutyl ether | COC(C)(C)C | C5H12O
product | 2-(2-Methoxy-ethoxy)-4-methyl-5-nitro-pyridine | COCCOC1=NC=C(C(=C1)C)[N+](=O)[O-] | C9H12N2O4
